US07858634B2
21.0 g of risedronic acid and 700 ml of deionized water are charged into a 1-liter reactor, equipped with mechanical stirrer and thermometer. The suspension, under stirring, is added with 148.4 ml of NaOH 0.5N thus obtaining complete dissolution of the suspended solid. The pH of the solution is 4.67. The solution is kept under stirring for 10′ and filtered on a paper filter and put into Lioguard chambers. The chambers are introduced into a lyophilizer which is set according to the following parameters: a) freezing-phase: temperature −40° C., freezing time 3 hours; b) lyophilization phase: time 89 hours, internal temperature 30° C., residual vacuum 400÷450 μHg. At the end of the process, the white and soft product is discharged from the chambers. 20.9 g of lyophilized amorphous sodium risedronate are thus obtained (yields 92.3%).

reactant | risedronic acid | 21.0 g | C1=CC(=CN=C1)CC(O)(P(=O)(O)O)P(=O)(O)O | C7H11NO7P2
reactant | NaOH | 0.5N, 148.4 ml | [OH-].[Na+]
solvent | water | 700 ml | O | H2O
product | sodium risedronate | 20.9 g | C1=CC(=CN=C1)CC(O)(P(=O)(O)O)P(=O)(O)[O-].[Na+] | InChI=1S/C7H11NO7P2.Na/c9-7(16(10,11)12,17(13,14)15)4-6-2-1-3-8-5-6;/h1-3,5,9H,4H2,(H2,10,11,12)(H2,13,14,15);/q;+1/p-1
